US07691882B2
1-Benzyloxy-4-(2-nitro-ethyl)-benzene
To a mixture of 1-benzyloxy-4-((E)-2-nitro-vinyl)-benzene (1.0 g, 3.9 mmol) described in Manufacturing Example 1-1-1, acetic acid (1 mL) and dimethyl sulfoxide (17 mL) was added sodium borohydride (250 mg, 6.3 mmol) at room temperature while cooling appropriately, and the reaction mixture was stirred for 40 minutes at room temperature. Water was added to the reaction mixture. The reaction mixture was partitioned into ethyl acetate and water. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:3) to obtain the title compound (710 mg, 70%).

reactant | 1-benzyloxy-4-((E)-2-nitro-vinyl)-benzene | 3.9 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H13NO3
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | dimethyl sulfoxide | 17 mL | CS(=O)C | C2H6OS
reactant | sodium borohydride | 6.3 mmol, 250 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 1-Benzyloxy-4-(2-nitro-ethyl)-benzene | 710 mg, 70% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC[N+](=O)[O-] | C15H15NO3
